US07442797B2
An ether (30 ml) solution of phenyl magnesium bromide ether solution (12.3 ml, 3.0 M, 37.0 mmol) was dropwise added to a mixture of 2-chloro-6-methoxypyridine (4.4 ml, 37.0 mmol), 1,3-bis(diphenylphosphino)propane nickel (II) chloride (228 mg) and diethyl ether (40 ml) at room temperature while 30 minutes. Thereafter, this reaction mixture was stirred under reflux for 1 hour, then the mixture was poured into an aqueous ammonium chloride solution, an organic layer was separated, furthermore an aqueous layer was extracted with dichloromethane. The organic layer was combined, and the solvent was distilled off, and the residue was filtered through a silica gel, thereby obtaining 7.0 g of crude 2-methoxy-6-phenylpyridine as pale yellow oil.

reactant | 2-chloro-6-methoxypyridine | 37.0 mmol, 4.4 ml | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | ether | 30 ml | CCOCC | C4H10O
catalyst | 1,3-bis(diphenylphosphino)propane nickel (II) chloride | 228 mg | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | 2-methoxy-6-phenylpyridine | 7.0 g | COC1=NC(=CC=C1)C1=CC=CC=C1 | C12H11NO
